* test6 Gate 6A: Sky130 TT nominal verification of eeg_fd_ota_core
.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include eeg_fd_ota_core.spice

.param VDD=1.8 VCM=0.9 VBP=0.585 VBN=0.65
VDD_SRC VDD18 0 {VDD}
VBP_SRC VBP 0 {VBP}
VBN_SRC VBN 0 {VBN}

* Differential stimulus: total differential AC magnitude is 1 V.
VINP INP 0 DC {VCM} AC 0.5 0
VINN INN 0 DC {VCM} AC 0.5 180
XOTA INP INN VBP VBN OUTP OUTN VCM_SENSE VDD18 0 eeg_fd_ota_core

* The following capacitors represent the next-stage input load.
CLOADP OUTP 0 1p
CLOADN OUTN 0 1p

.control
set noaskquit
op
let idd=-i(VDD_SRC)
print v(OUTP) v(OUTN) v(VCM_SENSE) idd
wrdata ../results/ota_tt_op.csv v(OUTP) v(OUTN) v(VCM_SENSE) idd

ac dec 100 0.1 10Meg
let vdiff=v(OUTP)-v(OUTN)
let gain_db=db(vdiff)
meas ac gain_10hz_db find gain_db at=10
meas ac gain_100hz_db find gain_db at=100
meas ac ugf_hz when gain_db=0 fall=1
wrdata ../results/ota_tt_diff_ac.csv frequency gain_db

* Common-mode run. Alter both sources to 1 V AC in phase.
alter @VINP[acmag]=1
alter @VINP[acphase]=0
alter @VINN[acmag]=1
alter @VINN[acphase]=0
ac dec 100 0.1 10Meg
let cm_out_db=db((v(OUTP)+v(OUTN))/2)
meas ac cm_gain_10hz_db find cm_out_db at=10
wrdata ../results/ota_tt_cm_ac.csv frequency cm_out_db
quit
.endc
.end
